US05064833
8-Methoxy-2,4-dichloroquinazoline (1.5 g, 0.007 mol) was heated under reflux in a solution of N-methyl aniline (1.43 m), 0.014 mol) in tetrahydrofuran (50 ml) for 16 hours precipitating a solid, which was collected and crystallised from ethanol/water to give 2,4-bis-(N-methylphenylamino)-8-methoxyquinazoline (0.37 g, 15%), m.p. 169°-170°.

reactant | 8-Methoxy-2,4-dichloroquinazoline | 0.007 mol, 1.5 g | COC=1C=CC=C2C(=NC(=NC12)Cl)Cl | C9H6Cl2N2O
reactant | N-methyl aniline | CNC1=CC=CC=C1 | C7H9N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2,4-bis-(N-methylphenylamino)-8-methoxyquinazoline | 0.37 g, 15% | CN(C1=NC2=C(C=CC=C2C(=N1)N(C)C1=CC=CC=C1)OC)C1=CC=CC=C1 | C23H22N4O
